US04920116
α-(2-Naphthalenyl)-4-pentylpiperazinepropanenitrile
In a manner similar to Preparation 11 react 2-naphthaleneacetonitrile with 4-pentylpiperazine hydrochloride and paraformaldehyde to obtain the title compound.

reactant | 2-naphthaleneacetonitrile | C1=C(C=CC2=CC=CC=C12)CC#N | C12H9N
reactant | 4-pentylpiperazine hydrochloride | Cl.C(CCCC)N1CCNCC1
reactant | paraformaldehyde | C=O | CH2O
product | α-(2-Naphthalenyl)-4-pentylpiperazinepropanenitrile | C1=C(C=CC2=CC=CC=C12)C(C#N)CN1CCN(CC1)CCCCC | C22H29N3
